US08461158B2
Reaction of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole with tert-butyl 4-[(3-hydroxypropyl)amino]-piperidine-1-carboxylate (Yokoyama et al., Bioorg. Med. Chem. 2008, 16, 7968) in DMF gave tert-butyl 4-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)amino]-1-piperidinecarboxylate: 1H NMR (DMSO-d6) (rotamers) δ 7.99 and 7.90 (2d, J=8.4, 8.5 Hz, 1H), 7.78 and 7.70 (2t, JHF=52.9, 52.3 Hz, 1H), 7.42 and 7.37 (2t, J=8.3 Hz, 1H), 6.95 (d, J=8.0 Hz, 1H), 4.71-4.64 and 4.58-4.47 (2m, 2H), 4.13-4.04 (m, 2H), 3.98 and 3.97 (2s, 3H), 3.79 and 3.69 (2br m, 8H), 3.60-3.46 (m, 4H), 2.82-2.79 (m, 2H), 1.79-1.62 (m, 6H), 1.42 (br s, 9H); Anal. Calcd. for C24H40F2N8O5: C, 56.3; H, 6.5; N, 18.1. Found: C, 56.4; H, 6.7; N, 18.0%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
reactant | tert-butyl 4-[(3-hydroxypropyl)amino]-piperidine-1-carboxylate | OCCCNC1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O3
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 4-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)amino]-1-piperidinecarboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CCCO)C=CC=C2OC)F | C29H40F2N8O5
